US07714168B2
According to the same method as that of Production Example 1, 1-cyano-1,2-dimethylpropylamine was used in place of 2,2-dimethylpropylamine, 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(1-cyano-1,2-dimethylpropyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide (hereinafter, described as the compound 19 of the present invention) represented by the formula:

reactant | 1-cyano-1,2-dimethylpropylamine | C(#N)C(C(C)C)(C)N | C6H12N2
reactant | 4-(2-propynyloxy)-3,5-dimethoxybenzoyl chloride | C(C#C)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C12H11ClO4
product | N-(1-cyano-1,2-dimethylpropyl)-4-(2-propynyloxy)-3,5-dimethoxybenzamide | C(#N)C(C(C)C)(C)NC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O | C18H22N2O4
